US07470664B2
A solution of 1-tert-butyl 2-methyl-(2S,4R)-4-{[(4-bromo-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate (100 mg, 0.21 mmol) and 3-methyl-N-[(pent-4-yn-1-yloxy)carbonyl]-L-valine (103 mg, 0.43 mmol) in THF (1 mL) and pyrrolidine (1 mL) was purged with nitrogen. Copper iodide (4 mg, 0.02 mmol) and Pd(PPh3)4 (25 mg, 0.02 mmol) were added and the reaction mixture was heated for 30 min at 70° C. under nitrogen. The resulting mixture was poured into saturated aqueous NaHCO3 and EtOAc, the organic layer separated and washed twice with 10% citric acid solution, then brine and dried over Na2SO4. The residue was purified by column chromatography on silica gel (eluting with 90:10:1 DCM:MeOH:NH4OH) and concentrated to give N-[({5-[2-({[(3R,5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidin-3-yl]oxy}carbonyl)-2,3-dihydro-1H-isoindol-4-yl]pent-4-yn-1-yl}oxy)carbonyl]-3-methyl-L-valine (131 mg, 99% yield) as colorless oil. LRMS (ESI) m/z 530.5 [(M+H)+; calcd for C27H36N3O8: 530.6].

reactant | 1-tert-butyl 2-methyl-(2S,4R)-4-{[(4-bromo-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate | 0.21 mmol, 100 mg | C[C@@]1(N(C[C@@H](C1)OC(=O)N1CC2=CC=CC(=C2C1)Br)C(=O)OC(C)(C)C)C(=O)[O-]
reactant | 3-methyl-N-[(pent-4-yn-1-yloxy)carbonyl]-L-valine | 0.43 mmol, 103 mg | CC([C@H](NC(=O)OCCCC#C)C(=O)O)(C)C | C12H19NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | pyrrolidine | 1 mL | N1CCCC1 | C4H9N
catalyst | Copper iodide | 0.02 mmol, 4 mg | [Cu](I)I
catalyst | Pd(PPh3)4 | 0.02 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[({5-[2-({[(3R,5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidin-3-yl]oxy}carbonyl)-2,3-dihydro-1H-isoindol-4-yl]pent-4-yn-1-yl}oxy)carbonyl]-3-methyl-L-valine | 131 mg, 99% yield | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@H]1C(=O)OC)OC(=O)N1CC2=CC=CC(=C2C1)C#CCCCOC(=O)N[C@@H](C(C)(C)C)C(=O)O | C32H43N3O10
